US04103009
2,4-diamino-6-(3-trifluoromethylthiophenyl)-s-triazine
2.9 g of m-trifluoromethylthiobenzonitrile (b.p. 86°-88° C./40 mm Hg) and 1.4 g of dicyanodiamide are dissolved in 3 ml of methylcellosolve and the mixture is then combined with 0.3 g of caustic potash and refluxed for 5 hours. After cooling, the mixture is diluted with water and extracted with ether, and the extract, after evaporation, is recrystallized from methanol. Melting point of the obtained material: 172°-174° C.; yield: 2.4 g.

reactant | m-trifluoromethylthiobenzonitrile | 2.9 g | FC(SC=1C=C(C#N)C=CC1)(F)F | C8H4F3NS
reactant | dicyanodiamide | 1.4 g | C(#N)N=C(N)N | C2H4N4
reactant | caustic potash | 0.3 g | [OH-].[K+]
solvent | methylcellosolve | 3 ml | COCCO | C3H8O2
solvent | water | O | H2O
product | 2,4-diamino-6-(3-trifluoromethylthiophenyl)-s-triazine | NC1=NC(=NC(=N1)N)C1=CC(=CC=C1)SC(F)(F)F | C10H8F3N5S
